US07705155B2
Synthesis of (R)-3-(3-benzyloxymethyl-2-methoxy-pyridin-4-yl)-3-hydroxy-pentanoic acid
4.733 g (4R,5S)-3-acetyl-4,5-diphenyl-oxazolidin-2-one (16.82 mmol, 1.2 eq) as obtainable from Example 8, were dissolved in 19 mL THF at 65° C. The solution was subsequently cooled to −78° C. and 17.00 mL lithium bis(trimethylsilyl)amide solution in TBF (1.0 M, 16.82 mmol, 1.2 eq) were slowly added (addition time: 10 min). During the addition, the color changed from colorless to bright yellow. After 2 h at −78° C., the clear solution was cooled to −95° C. A solution of 4.000 g 1-(3-benzyloxymethyl-2-methoxy-pyridin-4-yl)-propan-1-one (14.02 mmol) as obtainable from Example 7, in 16 mL THF was slowly added (syringe pump, addition time: 30 min) and the solution was kept for additional 30 min at −95° C. and then for 45 min at −78° C. Subsequently, 87.6 mL aqueous LiOH solution (0.8 M, 70.1 mmol, 5.0 eq) and 7.01 mL aqueous H2O2 solution (10.0 M, 70.1 mmol, 5.0 eq) were added and stirring of the resulting suspension was continued at 0° C. for 30 min and at room temperature for 1 h. The precipitated auxiliary was collected by filtration and the solid was washed with 15 mL water. The filtrate was poured on 200 mL aqueous NaOH solution (2 M). A second portion of precipitated auxiliary was collected by filtration and the solid was washed with 3 mL water. The filtrate was then extracted 3 times with 200 mL, in total with 600 mL TBME in order to remove unreacted 1-(3-benzyloxymethyl-2-methoxy-pyridin-4-yl)-propan-1-one, unprecipitated auxiliary and several impurities. The aqueous phase was then acidified with aqueous HCl until pH 3. The resulting white suspension was extracted twice with 200 mL, in total 400 mL dichloromethane. The combined dichloromethane extracts were washed with 80 mL saturated aqueous NH4Cl and 16 mL brine and were subsequently dried over 20 g sodium sulfate (30 min) and filtered. The solid was washed with 40 mL dichloromethane. After removal of solvent in a rotary evaporator (40° C., 5 mbar), the title compound was obtained as a light yellow oil (3.61 g, 75% by weight, er 87.2:12.8).

reactant | (4R,5S)-3-acetyl-4,5-diphenyl-oxazolidin-2-one | 16.82 mmol, 4.733 g, 1.2 eq | C(C)(=O)N1C(O[C@H]([C@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15NO3
reactant | lithium bis(trimethylsilyl)amide | 17.00 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-(3-benzyloxymethyl-2-methoxy-pyridin-4-yl)-propan-1-one | 14.02 mmol, 4.000 g | C(C1=CC=CC=C1)OCC=1C(=NC=CC1C(CC)=O)OC | C17H19NO3
reactant | LiOH | 70.1 mmol, 0.8 M, 87.6 mL, 5.0 eq | [Li+].[OH-]
reactant | H2O2 | 70.1 mmol, 10.0 M, 7.01 mL, 5.0 eq | OO | H2O2
solvent | THF | 19 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | (R)-3-(3-benzyloxymethyl-2-methoxy-pyridin-4-yl)-3-hydroxy-pentanoic acid | C(C1=CC=CC=C1)OCC=1C(=NC=CC1[C@](CC(=O)O)(CC)O)OC | C19H23NO5
